US08372832B2
4-[5-(5-Bromo-furan-2-yl)-[1,3,4]oxadiazol-2-yl]-1,4-diaza-bicyclo[3.2.2]nonane Free Base (Compound A1)
A mixture of 1,4-diazabicyclo[3.2.2]nonane (4.05 g, 32.1 mmol), 2-benzylsulfanyl-5-(5-bromo-furan-2-yl)-[1,3,4]oxadiazole (10.3 g, 30.5 mmol) and N,N-diisopropylethylamine (8.29 g, 64.1 mmol) was stirred at 100° C. for 4 hours. Aqueous sodium hydroxide (30 ml, 1 M) was added followed by extraction with chloroform (3×30 ml). The organic phase was dried and evaporated. The crude solid mixture was solved in hot ethyl acetate (100 ml), some red, glue-like impurities where removed by filtration. The filtrate was evaporated and finally the crystalline product was triturated with diethylether. Yield 3.43 g (33%). LC-ESI-HRMS of [M+H]+ shows 339.0453 Da. Calc. 339.045664 Da, dev. −1.1 ppm.

reactant | 1,4-diazabicyclo[3.2.2]nonane | 32.1 mmol, 4.05 g | N12CCNC(CC1)CC2 | C7H14N2
reactant | 2-benzylsulfanyl-5-(5-bromo-furan-2-yl)-[1,3,4]oxadiazole | 30.5 mmol, 10.3 g | C(C1=CC=CC=C1)SC=1OC(=NN1)C=1OC(=CC1)Br | C13H9BrN2O2S
reactant | N,N-diisopropylethylamine | 64.1 mmol, 8.29 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | sodium hydroxide | 1 M, 30 ml | [OH-].[Na+]
product | 4-[5-(5-Bromo-furan-2-yl)-[1,3,4]oxadiazol-2-yl]-1,4-diaza-bicyclo[3.2.2]nonane | BrC1=CC=C(O1)C1=NN=C(O1)N1CCN2CCC1CC2 | C13H15BrN4O2
